US04558132
2-Chloro-N-[2-[[3-(dimethylamino)propyl]phenylamino]-3-pyridinyl]benzamide
To a stirred solution of 9 g (0.033 mole) of N2 -[3-(dimethylamino)propyl]-N2 -phenyl-2,3-pyridinediamine and 3.9 g (0.038 mole) triethylamine in 75 ml of dry methylene chloride was added dropwise with stirring at 15°-20° C., 6.4 g (0.037 mole) of 2-chlorobenzoyl chloride. After stirring overnight, the reaction mixture was washed with water. The methylene chloride layer was extracted twice with dilute sodium hydroxide solution, washed with water, dried over sodium sulfate and concentrated in vacuo. The residue was triturated in isopropyl ether to give 10 g (74%) of solid. A portion of this solid was recrystallized from isopropyl alcohol-isopropyl ether to give a cream colored solid, m.p. 90°-92° C.

reactant | N2 [3-(dimethylamino)propyl]-N2 -phenyl-2,3-pyridinediamine | 0.033 mole, 9 g | N#N.CN(CCCC1=C(C(=NC=C1)NC1=CC=CC=C1)N)C
reactant | triethylamine | 0.038 mole, 3.9 g | C(C)N(CC)CC | C6H15N
reactant | 2-chlorobenzoyl chloride | 0.037 mole, 6.4 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 2-Chloro-N-[2-[[3-(dimethylamino)propyl]phenylamino]-3-pyridinyl]benzamide | 10 g, 74% | ClC1=C(C(=O)NC=2C(=NC=CC2)N(C2=CC=CC=C2)CCCN(C)C)C=CC=C1 | C23H25ClN4O
